US08283353B2
4′-[(4-{trans-4-[(1-acetylcyclobutyl)methoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]-3′-fluorobiphenyl-2-carbonitrile
3′-Fluoro-4′-{[4-(trans-4-{[1-(1-hydroxyethyl)cyclobutyl]methoxy}cyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (0.72 g) was dissolved in acetonitrile (20 mL), 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one (0.77 g) was added, and the mixture was stirred at room temperature for 4 hr. Saturated aqueous sodium hydrogen carbonate solution and sodium thiosulfate were added to the reaction mixture, and the mixture was stirred at room temperature for 2 hr, and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.65 g, 89%).

reactant | 3′-Fluoro-4′-{[4-(trans-4-{[1-(1-hydroxyethyl)cyclobutyl]methoxy}cyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.72 g | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OCC2(CCC2)C(C)O)=O)C=2C(=CC=CC2)C#N | C35H40FN5O3
reactant | 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one | 0.77 g | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 4′-[(4-{trans-4-[(1-acetylcyclobutyl)methoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]-3′-fluorobiphenyl-2-carbonitrile | 0.65 g, 89% | C(C)(=O)C1(CCC1)CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=C(C=C(C=C1)C=1C(=CC=CC1)C#N)F)CCC)N=CN2 | C35H38FN5O3
